US04496572
Sodium hydride (0.12 g of 50% dispersion in mineral oil) was added to a solution of 3-hydroxypyridine (0.24 g) in dry N,N-dimethylformamide (5 ml) and the mixture was stirred for 30 minutes. 3-Bromomethylbenzo[b]thiophene-6-carboxylic acid methyl ester (0.71 g) in a small volume of N,N-dimethylformamide was added and the mixture was stirred at room temperature for 2 hours and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave a gummy solid which was chromatographed on silica gel. Elution with chloroform first gave some impurity followed by pure product. Evaporation of the product containing fractions gave 3-(3-pyridyloxymethyl)benzo[b]thiophene-6-carboxylic acid methyl ester (0.27 g) which was used directly in the next stage.

reactant | Sodium hydride | 0.12 g | [H-].[Na+]
reactant | 3-hydroxypyridine | 0.24 g | OC=1C=NC=CC1 | C5H5NO
reactant | 3-Bromomethylbenzo[b]thiophene-6-carboxylic acid methyl ester | 0.71 g | COC(=O)C=1C=CC2=C(SC=C2CBr)C1 | C11H9BrO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(3-pyridyloxymethyl)benzo[b]thiophene-6-carboxylic acid methyl ester | 0.27 g | COC(=O)C=1C=CC2=C(SC=C2COC=2C=NC=CC2)C1 | C16H13NO3S
